US09085555B2
A. (S)-2-(3-Trifluoromethoxy-phenylcarbamoyl)-4-methylene-pyrrolidine-1-carboxylic acid tert-butyl ester
To a suspension of N-Boc-4-methylene-L-proline (1 g, 4.4 mmol) in CH2Cl2 (40 mL) was added 3-(trifluoromethoxy)aniline (0.71 mL, 5.28 mmol), HBTU (1.14 g, 6.6 mmol) and diisopropylethylamine (1.51 mL, 8.8 mmol). The reaction mixture was stirred at RT for 2 days. The mixture was successively washed with 30 mL of a saturated aqueous NaHCO3 solution and an HCl 1M solution. The organic layers were dried (phase separator) and concentrated under vacuum. The crude residue was purified by flash column chromatography on silica gel (eluent: c-hexane/EtOAc:65/35) to give the title compound. TLC, Rf (c-hexane/EtOAc: 1:1)=0.55; MS (LC/MS): 287.0 [M-Boc]+, 385.0 [M−H]−.

reactant | N-Boc-4-methylene-L-proline | 4.4 mmol, 1 g | C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)CC(C1)=C | C11H17NO4
reactant | 3-(trifluoromethoxy)aniline | 5.28 mmol, 0.71 mL | FC(OC=1C=C(N)C=CC1)(F)F | C7H6F3NO
reactant | HBTU | 6.6 mmol, 1.14 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 8.8 mmol, 1.51 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-(3-Trifluoromethoxy-phenylcarbamoyl)-4-methylene-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=C)C(NC1=CC(=CC=C1)OC(F)(F)F)=O | C18H21F3N2O4
